US04464382
3-Carboxymethyl-5-Benzylidenerhodanine
A mixture of 955 mg of 3-carboxymethylrhodanine, 516 mg of sodium acetate, 10 ml of acetic acid and 637 mg of benzaldehyde was heat-refluxed for 2 hours. To the reaction mixture was added 20 ml of water, and the precipitated crystals were filtered. The resulting crystals were recrystallized from ethanol to obtain 699 mg of the titled compound.

reactant | 3-carboxymethylrhodanine | 955 mg | C(=O)(O)CN1C(SCC1=O)=S | C5H5NO3S2
reactant | sodium acetate | 516 mg | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | benzaldehyde | 637 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | 20 ml | O | H2O
product | 3-Carboxymethyl-5-Benzylidenerhodanine | 699 mg | C(=O)(O)CN1C(SC(C1=O)=CC1=CC=CC=C1)=S | C12H9NO3S2
